US08497264B2
To a suspension of 4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (1.668 g, 4.07 mmol) in DCM (12 ml) was added boron tribromide (0.963 mL, 10.19 mmol) at 0° C. The reaction mixture was stirred for 45 hrs at 0° C. The reaction mixture was allowed to warm to RT and was stirred for additional 2 hrs. The reaction mixture was cooled to 0° C. and quenched by addition of saturated aqueous NaHCO3 solution (˜10 mL). The solvent was removed in vacuo, the mixture was diluted with water and filtered. The solid was washed with water and dried under reduced pressure to afford 5-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-2′-ol (1.53 g, 3.87 mmol, 95% yield).

reactant | 4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 4.07 mmol, 1.668 g | FC1=CC(=CC=2C3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)COCC(=N3)N)OC | C22H17F2N3O3
reactant | boron tribromide | 10.19 mmol, 0.963 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-2′-ol | 3.87 mmol, 1.53 g, 95% yield | NC1=NC2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)C=2C(=NC=CC2)F)COC1 | C21H15F2N3O3
